US08461360B2
O-Methyl γ-mangostins such as β-mangostin, 3-O-methyl-γ-mangostin, 6,7-dimethyl-γ-mangostin and 3,6,7-trimethyl-γ-mangostin are conveniently converted to α-mangostin first by demethylation using sodium cyanide (NaCN) in dimethyl sulfoxide (DMSO) and then subjected to inventive O-demethylation process to obtain γ-mangostin in good yield and high purity.

reactant | β-mangostin | CC(=CCC1=C(C=C2C(=C1O)C(=O)C3=C(C=C(C(=C3CC=C(C)C)OC)O)O2)OC)C | C25H28O6
reactant | α-mangostin | CC(=CCC1=C(C=C2C(=C1O)C(=O)C3=C(C(=C(C=C3O2)O)OC)CC=C(C)C)O)C | C24H26O6
reactant | sodium cyanide | [C-]#N.[Na+]
solvent | dimethyl sulfoxide | CS(=O)C | C2H6OS
product | γ-mangostin | CC(=CCC=1C(=CC2=C(C1O)C(=O)C3=C(C=C(C(=C3CC=C(C)C)O)O)O2)O)C | C23H24O6
